US04877881
To a methylene chloride (100 mL) solution of 1-(4'-hydroxy-3'-methoxyphenyl)-1-butene-3-one (10.0 g, 52 mmol) is added triethyl amine (5.8 g, 57.2 mmol) and t-butylchlorodimethyl silane (15.7 g, 104 mmol). The reaction is stirred at room temperature for 12 hours under an argon atmosphere. The mixture is washed with water (3×100 mL) and brine (100 mL). The organic layer is dried over MgSO4 and evaporated. Flash chromatography (ethyl ether/hexane 1:1) affords 12.8 g (80%) of the desired 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-butene-3-one, mp=65°-68° C.

reactant | 1-(4'-hydroxy-3'-methoxyphenyl)-1-butene-3-one | 52 mmol, 10.0 g | OC1=C(C=C(C=C1)C=CC(C)=O)OC | C11H12O3
reactant | triethyl amine | 57.2 mmol, 5.8 g | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorodimethyl silane | 104 mmol, 15.7 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4'-t-butyldimethylsilyloxy-3'-methoxyphenyl)-1-butene-3-one | 12.8 g, 80% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C=CC(C)=O)OC | C17H26O3Si
